US07488844B2
(ii) (2S)-3-(4-{2-[Benzyl(ethyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid
To a solution of ethyl(2S)-3-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate (0.112 g, 0.27 mmol) in acetonitrile (14 mL) was added aqueous 0.10 M LiOH (7 mL) and the reaction mixture was stirred at room temperature overnight. After neutralisation with 5% HCl, the solvent volume was reduced in vacuo and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic phase was washed with brine (50 mL), dried over Na2SO4, and concentrated in vacuo to afford 0.096 g (92%) of a colourless oil.

reactant | ethyl(2S)-3-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 0.27 mmol, 0.112 g | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)=O)CC | C24H31NO5
reactant | LiOH | 0.10 M, 7 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 14 mL | C(C)#N | C2H3N
product | (2S)-3-(4-{2-[Benzyl(ethyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid | 0.096 g, 92% | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC)=O)CC | C22H27NO5
